US04327228
the reaction of m-chlorophenyl-phenylacetaldehyde with nitromethane in the presence of a base to yield 3-nitro-1-phenyl-1-(m-chlorophenyl)propan-2-ol

reactant | m-chlorophenyl-phenylacetaldehyde | ClC=1C=C(C=CC1)C(C=O)C1=CC=CC=C1 | C14H11ClO
reactant | nitromethane | [N+](=O)([O-])C | CH3NO2
product | 3-nitro-1-phenyl-1-(m-chlorophenyl)propan-2-ol | [N+](=O)([O-])CC(C(C1=CC(=CC=C1)Cl)C1=CC=CC=C1)O | C15H14ClNO3
